US06140100
A 2L 3-necked flask equipped with a magnetic stirrer and a thermometer was charged with 25.0 g of glutamic acid γ-ethyl ester (Sigma Chemical Co., St. Louis, Mo., 63178) and 1 L of distilled water. The solution was heated to 60° C. with stirring and treated with 30 g of NaHCO3 followed by 25 mL of benzyl chloroformate (Aldrich). The flask was allowed to cool to RT and stirring was continued for 2 h. The mixture was extracted with ethyl ether (5×100 mL) and the ether extracts were discarded. The aqueous phase was acidified to a congo red end point by addition of concentrated aqueous HCl and the resulting emulsion was extracted with CH2Cl2 (5×100 mL). The combined CH2Cl2 extracts were washed with 0.05 N aqueous HCl (2×100 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to a volume of 50 mL. The solution was chilled in an ice water bath and triturated with addition of 200 mL of pentane. The resulting solid was collected by vacuum filtration and dried in vacuo to afford 37.0 g (83%) of N-((benzyloxy)carbonyl)-5-O-ethyl-L-glutamic acid as a white powder, m.p. 82-84° C.

reactant | glutamic acid γ-ethyl ester | 25.0 g | CCOC(=O)CCC(C(=O)O)N | C7H13NO4
reactant | NaHCO3 | 30 g | C(=O)(O)[O-].[Na+]
reactant | benzyl chloroformate | 25 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 1 L | O | H2O
product | N-((benzyloxy)carbonyl)-5-O-ethyl-L-glutamic acid | 37.0 g, 83% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(=O)OCC)C(=O)O | C15H19NO6
